US08426420B2
ii) 4-((S)-2-Amino-4-tert-butoxycarbonylamino-butyryl)-piperazine-1-carboxylic acid ethyl ester
A solution of 1.71 g 4-[(S)-4-tert-butoxycarbonylamino-2-(9H-fluoren-9-ylmethoxycarbonylamino)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 30 ml THF was stirred in the presence of 8.9 ml 1-octanethiol and 101 μl DBU. After 12 h the mixture was concentrated, the residue dissolved in dichloromethane and extracted with 0.1 M HCl. The aqueous phase was brought to pH 9 by adding aqueous NaHCO3 before being extracted with dichloromethane. The product was obtained after evaporation of the solvent and was used in the subsequent reaction. Yield: 2.27 g colorless foam.

reactant | 4-[(S)-4-tert-butoxycarbonylamino-2-(9H-fluoren-9-ylmethoxycarbonylamino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 1.71 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCNC(=O)OC(C)(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C31H40N4O7
reactant | 1-octanethiol | 8.9 ml | C(CCCCCCC)S | C8H18S
reactant | DBU | 101 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-((S)-2-Amino-4-tert-butoxycarbonylamino-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCNC(=O)OC(C)(C)C)N)=O | C16H30N4O5
